US05912246
A mixture of piperazine (7.56 g) and 4-fluorobenzamide (2.44 g) in water (10 mL) is heated at reflux for 27 h. The mixture is then allowed to cool slightly and the solid is collected and washed with water and dichloromethane, followed by drying to give 3.24 g of 4-(piperazin-1-yl)benzamide; mp 238-243° C.; ms m/z 205; IR (mineral oil) 1609, 1255, 1665, 1389, 3149 cm-1. 1H NMR (DMSOd6) δ2.59, 2.80, 3.14, 6.90, 7.02, 7.72, 7.73.

reactant | piperazine | 7.56 g | N1CCNCC1 | C4H10N2
reactant | 4-fluorobenzamide | 2.44 g | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
solvent | water | 10 mL | O | H2O
product | 4-(piperazin-1-yl)benzamide | 3.24 g | N1(CCNCC1)C1=CC=C(C(=O)N)C=C1 | C11H15N3O
